US09079894B2
To 3-cyclobutyl-3-aza bicyclo[3.1.0]hexane-6-carboxylic acid (74 mg, 0.40 mmol, obtained in preparation 8) was added phosphoryl chloride (1 mL). The mixture was stirred for 15 minutes and 5-amino-6-chloro chroman-8-carboxylic acid hydrazide (80 mg, 0.33 mmol) was added. The reaction mixture was gradually heated to reflux for 1 hour. The reaction mixture was cooled to room temperature, triturated with hexanes (2×20 mL) and the crude mass was basified with aqueous sodium bicarbonate solution. The basified mixture was extracted with 10% methanol in dichloromethane The organic layer was dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure and was purified by silica gel column to obtain 6-chloro-8-[5-(3-cyclobutyl-3-aza bicyclo[3.1.0]hex-6-yl)-[1,3,4]oxadiazol-2-yl]chroman-5-yl amine (18 mg).

reactant | 3-cyclobutyl-3-aza bicyclo[3.1.0]hexane-6-carboxylic acid | 0.40 mmol, 74 mg | C1(CCC1)N1CC2C(C2C1)C(=O)O | C10H15NO2
reactant | phosphoryl chloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-amino-6-chloro chroman-8-carboxylic acid hydrazide | 0.33 mmol, 80 mg | NC1=C2CCCOC2=C(C=C1Cl)C(=O)NN | C10H12ClN3O2
product | 6-chloro-8-[5-(3-cyclobutyl-3-aza bicyclo[3.1.0]hex-6-yl)-[1,3,4]oxadiazol-2-yl]chroman-5-yl amine | 18 mg, Yield: 14.0% | ClC=1C(=C2CCCOC2=C(C1)C=1OC(=NN1)C1C2CN(CC12)C1CCC1)N | C20H23ClN4O2
